US05552396
N-(3-acetoxypropyl)-indole
To a stirred 0° C. DMF (400 mL) suspension of NaH (60% in mineral oil, 0.705 moles, 28.2 g, 1.5 eq.) in a three-neck flask fitted with a reflux condenser and an addition funnel was added a DMF (150 mL) solution of indole (55 g, 0.47 moles) dropwise. After 30-60 minutes, a DMF (50 mL) solution of the alkyl halide, 3-bromopropyl acetate (170 g, 0.94 moles) was added. The reaction was heated at 50° C. for 6 hours and then allowed to stir at room temperature for 5-15 hours.

reactant | NaH | 0.705 moles, 28.2 g, 1.5 eq. | [H-].[Na+]
reactant | indole | 0.47 moles, 55 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 3-bromopropyl acetate | 0.94 moles, 170 g | C(C)(=O)OCCCBr | C5H9BrO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | N-(3-acetoxypropyl)-indole | C(C)(=O)OCCCN1C=CC2=CC=CC=C12 | C13H15NO2
